US07576094B2
To a solution of 1′-(4-methoxyphenyl)-7′,8′-dimethyl-1′,4′-dihydro-2′H-spiro[cyclobutane-1,3′-quinolin]-6′-ol (112 mg) in 3.2 mL t-BuOH was added NaOH (224 μL) and geranyl bromide (133 μL). After 20 minutes, saturated NH4Cl was added and the mixture was extracted with dichloromethane. The organic phase was then washed with brine, dried and evaporated. The residue was passed through a column (Hexane:EtOAc=10:1.2-10:2) to give 5′-(3,7-dimethylocta-2,6-dienyl)-1′-(4-methoxyphenyl)-7′,8′-dimethyl-2′,4′-dihydro-1′H-spiro[cyclobutane-1,3′-quinolin]-6′ol (14.7 mg) as a semi white solid. 1H-NMR (300 MHz, CDCl3) δ=6.79-6.62 (m, 4H); 5.26-5.13 (m, 1H); 5.13-5.01 (m, 1H); 4.93 (s, 1H); 3.76 (s, 3H); 3.61 (s, 2H); 2.79 (s, 2H); 2.17-2.02 (m, 7H); 1.82-1.28 (m, 18H). 13C-NMR (75 MHz, CDCl3) δ=152.74, 148.42, 146.18, 138.01, 135.33, 131.98, 129.67, 126.73, 123.86, 122.39, 122.12, 121.95, 119.93, 113.99, 76.63, 61.49, 55.51, 40.16, 39.75, 38.33, 32.89, 26.46, 25.75, 25.53, 17.77, 16.27, 15.76, 15.61, 12.39 ppm.

reactant | 1′-(4-methoxyphenyl)-7′,8′-dimethyl-1′,4′-dihydro-2′H-spiro[cyclobutane-1,3′-quinolin]-6′-ol | 112 mg | COC1=CC=C(C=C1)N1CC2(CC3=CC(=C(C(=C13)C)C)O)CCC2 | C21H25NO2
reactant | NaOH | 224 μL | [OH-].[Na+]
reactant | geranyl bromide | 133 μL | C(\C=C(/C)\CCC=C(C)C)Br | C10H17Br
reactant | NH4Cl | [NH4+].[Cl-]
solvent | t-BuOH | 3.2 mL | CC(C)(C)O | C4H10O
product | 5′-(3,7-dimethylocta-2,6-dienyl)-1′-(4-methoxyphenyl)-7′,8′-dimethyl-2′,4′-dihydro-1′H-spiro[cyclobutane-1,3′-quinolin]-6′ol | 14.7 mg | CC(=CCC1=C2CC3(CN(C2=C(C(=C1O)C)C)C1=CC=C(C=C1)OC)CCC3)CCC=C(C)C | C31H41NO2
